MOLTIPLICATORE PARALLELO

.option filetype=ascii
.INCLUDE ../lib/ST65LIKE_cell_library_v2020_1.net 
.INCLUDE ../lib/16nm_HP.pm
.PARAM Lmin=16n
.PARAM Wmin=16n
.PARAM XXX=1
.TRAN 0.1p 500p

.subckt PART_SUB 0 Vdd out0 out1 out2 out3 xin0 xin1 xin2 xin3 y XX=1
	xand0 0 Vdd out0 xin0 y AND2_SUB XX=XXX
	xand1 0 Vdd out1 xin1 y AND2_SUB XX=XXX
	xand2 0 Vdd out2 xin2 y AND2_SUB XX=XXX
	xand3 0 Vdd out3 xin3 y AND2_SUB XX=XXX
.ends

.subckt RCA_SUB 0 Vdd sum0 sum1 sum2 sum3 cout3 cout-1 ain0 ain1 ain2 ain3 bin0 bin1 bin2 bin3 XX=1
	xfa0 0 Vdd sum0 cout0 cout-1 ain0 bin0 FA_SUB XX=XXX
	xfa1 0 Vdd sum1 cout1 cout0 ain1 bin1 FA_SUB XX=XXX
	xfa2 0 Vdd sum2 cout2 cout1 ain2 bin2 FA_SUB XX=XXX
	xfa3 0 Vdd sum3 cout3 cout2 ain3 bin3 FA_SUB XX=XXX
.ends

***numeroOut=uscita porte and
***snumero znumero=uscita sommatori
.subckt MP_SUB 0 Vdd z0 z1 z2 z3 z4 z5 z6 z7 c0 xin_0 xin_1 xin_2 xin_3 yin_0 yin_1 yin_2 yin_3 XX=1
	xpart0 0 Vdd z0 0out1 0out2 0out3 xin_0 xin_1 xin_2 xin_3 yin_0 PART_SUB XX=XXX
	xpart1 0 Vdd 1out0 1out1 1out2 1out3 xin_0 xin_1 xin_2 xin_3 yin_1 PART_SUB XX=XXX
	xadd0 0 Vdd z1 s1 s2 s3 c3 c0 0out1 0out2 0out3 0 1out0 1out1 1out2 1out3 RCA_SUB XX=XXX
	xpart2 0 Vdd 2out0 2out1 2out2 2out3 xin_0 xin_1 xin_2 xin_3 yin_2 PART_SUB XX=XXX
	xadd1 0 Vdd z2 s4 s5 s6 c6 c0 s1 s2 s3 c3 2out0 2out1 2out2 2out3 RCA_SUB XX=XXX
	xpart3 0 Vdd 3out0 3out1 3out2 3out3 xin_0 xin_1 xin_2 xin_3 yin_3 PART_SUB XX=XXX
	xadd2 0 Vdd z3 z4 z5 z6 z7 c0 s4 s5 s6 c6 3out0 3out1 3out2 3out3 RCA_SUB XX=XXX
.ends

xmp 0 Vcc zz0 zz1 zz2 zz3 zz4 zz5 zz6 zz7 zc0 x0 x1 x2 x3 y0 y1 y2 y3 MP_SUB XX=XXX

VinX3 X3 0 0
VinX2 X2 0 0
VinX1 X1 0 0
VinX0 X0 0 0
VinY3 Y3 0 0
VinY2 Y2 0 0
VinY1 Y1 0 0
VinY0 Y0 0 1

V_c0 zc0 0 0
V_dd Vcc 0 1 

.control
run
plot zz0 zz1 zz2 zz3 zz4 zz5 zz6 zz7 
.endc
.end